US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
4-(Furan-3-ylmethylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 80 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 69 mg of potassium carbonate, and 45 μL of furfuryl mercaptan reacted to give 9 mg of the title compound as a foam.

reactant | 4-(Furan-3-ylmethylsulfanylmethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 80 mg | O1C=C(C=C1)CSCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H25NO2S
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | furfuryl mercaptan | 45 μL | C(C1=CC=CO1)S | C5H6OS
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 9 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
